US07652041B2
Step 4. Preparation of 3-[3-({2-[(tert-butoxycarbonyl)amino]pyridin-4-yl}oxy)phenyl]propanoic acid
To a solution of methyl 3-[3-({2-[(tert-butoxycarbonyl)amino]pyridin-4-yl}oxy)phenyl]propanoate (427 mg, 1.15 mmol) in MeOH (10 mL) and THF (5 mL), was added 1M NaOH solution (4.59 mL, 4.49 mmol). The reaction was stirred for 18 h. The solvents were evaporated and the residue was dissolved in water. The solution was acidified to pH=3 by addition of 1N HCl. The precipitate was filtered off and washed with water and then hexane, then dried under vacuum to yield the title compound as a white solid (333 mg, 81%). LCMS: (FA) ES+ 359.1 (M+1), ES− 357.0 (M−1).

reactant | methyl 3-[3-({2-[(tert-butoxycarbonyl)amino]pyridin-4-yl}oxy)phenyl]propanoate | 1.15 mmol, 427 mg | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)OC=1C=C(C=CC1)CCC(=O)OC | C20H24N2O5
reactant | NaOH | 4.49 mmol, 1M, 4.59 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[3-({2-[(tert-butoxycarbonyl)amino]pyridin-4-yl}oxy)phenyl]propanoic acid | 333 mg, 81% | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)OC=1C=C(C=CC1)CCC(=O)O | C19H22N2O5
